US07504411B2
5,6-Dihydro-3-(4-fluoro-2-methoxyphenyl)pyrazinone was added to the solution of lithium aluminium hydride (0.46 g, 12 mmol) in diethyl ether (25 ml) and refluxed for 6 hr. Water (0.48 ml), 15% sodium hydroxide solution (0.48 ml) and again water (1.21 ml) were added to the ice-cooled solution and the precipitate was filtered and washed with dichloromethane. Combined organic layer was evaporated to give 2-(4-fluoro-2-methoxyphenyl)piperazine (0.83 g, 99%).

reactant | 5,6-Dihydro-3-(4-fluoro-2-methoxyphenyl)pyrazinone | FC1=CC(=C(C=C1)C=1C(NCCN1)=O)OC | C11H11FN2O2
reactant | lithium aluminium hydride | 12 mmol, 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.48 ml | O | H2O
reactant | sodium hydroxide | 0.48 ml | [OH-].[Na+]
reactant | water | 1.21 ml | O | H2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 2-(4-fluoro-2-methoxyphenyl)piperazine | 0.83 g, 99% | FC1=CC(=C(C=C1)C1NCCNC1)OC | C11H15FN2O
